US04979981
Preparation of 5-Fluoromethyl-7-methoxy-N-(2,6-dichlorophenyl)-1,2,4-triazolo[1,5-a]pyrimidine-2-sulfonamide
A solution containing 3.08 g (13.1 mmol) of N-trimethylsilyl-2,6-dichloroaniline and 1.50 g (5.26 mmol) of 5-fluoromethyl-7-chloro-1,2,4-triazolo[1,5-a]pyrimidine-2-sulfonyl chloride in 15 ml of dry acetonitrile was prepared and 0.075 ml (1.05 mmol) of dimethyl sulfoxide was added with stirring at ambient temperature. The mixture was allowed to react over 4 days and the resulting brown solution was then diluted with 150 ml of methylene chloride, washed with water, and dried over magnesium sulfate. The solvent was removed by evaporation under reduced pressure and replaced with hexane to obtain, after collection of the solids and drying, 1.80 g (84 percent of theory) of the 7-chloro analog of the title compound in about 80 percent purity. This was dissolved in 25 ml of dry methanol, the solution cooled to 0°-5° C. and a mixture of 1.70 g (7.89 mmol) of 25 weight percent sodium methoxide in methanol and 5 ml of methanol was added dropwise with stirring over a 10 min. period. The mixture was allowed to react for 10 min. and then about 1 ml of acetic acid was added. The solid that formed was collected, washed with methanol and with water, and dried to obtain 1.15 g (54 percent of theory) of the title compound as a light brown solid. This was extracted by stirring in boiling methanol, cooling, collecting the solids, and drying to obtain 1.09 g of product melting at 189°-191° C. The proton and fluorine nmr spectra were compatible with the assigned structure.

reactant | N-trimethylsilyl-2,6-dichloroaniline | 13.1 mmol, 3.08 g | C[Si](NC1=C(C=CC=C1Cl)Cl)(C)C | C9H13Cl2NSi
reactant | 5-fluoromethyl-7-chloro-1,2,4-triazolo[1,5-a]pyrimidine-2-sulfonyl chloride | 5.26 mmol, 1.50 g | FCC1=NC=2N(C(=C1)Cl)N=C(N2)S(=O)(=O)Cl | C6H3Cl2FN4O2S
reactant | dimethyl sulfoxide | 1.05 mmol, 0.075 ml | CS(=O)C | C2H6OS
reactant | acetic acid | about 1 ml | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | 5-Fluoromethyl-7-methoxy-N-(2,6-dichlorophenyl)-1,2,4-triazolo[1,5-a]pyrimidine-2-sulfonamide | FCC1=NC=2N(C(=C1)OC)N=C(N2)S(=O)(=O)NC2=C(C=CC=C2Cl)Cl | C13H10Cl2FN5O3S
